US07465815B2
5-Bromo-3-(4-isopropylphenyl)-1-benzofuran-2 (3H)-one
Using hydroxy(4-isopropylphenyl)acetic acid synthesized in Reference Example 1 and 4-bromophenol, the title compound was synthesized in the same manner as in Reference Example 2. Yield 30%. Melting point: 157-158° C. (methanol).

reactant | hydroxy(4-isopropylphenyl)acetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(C)C | C11H14O3
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
solvent | methanol | CO | CH4O
product | 5-Bromo-3-(4-isopropylphenyl)-1-benzofuran-2 (3H)-one | Yield 30% | BrC=1C=CC2=C(C(C(O2)=O)C2=CC=C(C=C2)C(C)C)C1 | C17H15BrO2
